US09085555B2
(3-Acetyl-6-chloro-indol-1-yl)-acetic acid
was prepared from 6-chloro-1H-indole in a similar manner as described in Scheme A13 for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. Brown solid. MS: 252 [M+H]+, 274 [M+Na]+; tR (HPLC conditions k): 2.89 min.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | (3-Acetyl-6-chloro-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC(=CC=C12)Cl)CC(=O)O | C12H10ClNO3
